US08217168B2
To a stirring solution of 6-bromo-4-(phenylcarbonyl)-1,2,4-triazine-3,5(2H,4H)-dione (1.46 g, 4.93 mmol) in dry N,N-Dimethylformamide (DMF) (64.9 ml), TRIETHYLAMINE (0.825 ml, 5.92 mmol) was added and the mixture was stirred at room temperature for 15 minutes. Acrolein (0.366 ml, 4.93 mmol) was then added and the mixture was left stirring at room temperature for 3 hours. It was then quenched with NH4Cl saturated solution and diluted with AcOEt. Phases were separated, organic phase was washed with cold water, dried over sodium sulphate, filtered and concentrated under reduced pressure affording 3-[6-bromo-3,5-dioxo-4-(phenylcarbonyl)-4,5-dihydro-1,2,4-triazin-2(3H)-yl]propanal (1.8 g, 5.11 mmol). The compound was used for next step without purification.

reactant | 6-bromo-4-(phenylcarbonyl)-1,2,4-triazine-3,5(2H,4H)-dione | 4.93 mmol, 1.46 g | BrC=1C(N(C(NN1)=O)C(=O)C1=CC=CC=C1)=O | C10H6BrN3O3
reactant | TRIETHYLAMINE | 5.92 mmol, 0.825 ml | C(C)N(CC)CC | C6H15N
reactant | Acrolein | 4.93 mmol, 0.366 ml | C(=O)C=C | C3H4O
solvent | N,N-Dimethylformamide | 64.9 ml | CN(C=O)C | C3H7NO
product | 3-[6-bromo-3,5-dioxo-4-(phenylcarbonyl)-4,5-dihydro-1,2,4-triazin-2(3H)-yl]propanal | 5.11 mmol, 1.8 g | BrC=1C(N(C(N(N1)CCC=O)=O)C(=O)C1=CC=CC=C1)=O | C13H10BrN3O4
